US04361511
A solution of 16.7 ml of trifluoroacetic acid anhydride in 10 ml of tetrahydrofuran is added at 0° C. while stirring over a period of 5 minutes to 3.6 g (10.2 mmol) of 7-amino-6,8-dichloro-5-(o-fluorophenyl)-1,3-dihydro-1-methyl-2H-1,4-benzodiazepin-2-one and 12.2 g of sodium carbonate in 50 ml of tetrahydrofuran. After 20 minutes, the mixture is taken up in chloroform, washed with water, dried and evaporated. The residue, after recrystallisation from ether, gives N-[6,8-dichloro-5-(o-fluorophenyl)-2,3-dihydro-1-methyl-2-oxo-1H-1,4-benzodiazepin-7-yl]-2,2,2-trifluoroacetamide of melting point 238°-240° C.

reactant | trifluoroacetic acid anhydride | 16.7 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 7-amino-6,8-dichloro-5-(o-fluorophenyl)-1,3-dihydro-1-methyl-2H-1,4-benzodiazepin-2-one | 10.2 mmol | NC=1C(=CC2=C(C(=NCC(N2C)=O)C2=C(C=CC=C2)F)C1Cl)Cl | C16H12Cl2FN3O
reactant | sodium carbonate | 12.2 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-[6,8-dichloro-5-(o-fluorophenyl)-2,3-dihydro-1-methyl-2-oxo-1H-1,4-benzodiazepin-7-yl]-2,2,2-trifluoroacetamide | ClC1=C(C(=CC2=C1C(=NCC(N2C)=O)C2=C(C=CC=C2)F)Cl)NC(C(F)(F)F)=O | C18H11Cl2F4N3O2
